US03952046
0.390 G. of 4'-cyano-4-hydroxy-biphenyl are dissolved in 4.0 ml. of absolute pyridine and cooled to -10° with stirring. 0.255 G. of butyric acid chloride are added dropwise thereto over a period of 2 minutes. The temperature rises to 0° and pyridine hydrochloride precipitates out. Subsequently, the mixture is stirred overnight at room temperature and the suspension poured on to a mixture of 12 g. of ice and 12 ml. of 20% hydrochloric acid. Thereafter, this mixture is extracted three times with ethyl acetate, washed with water, dried over sodium sulfate and evaporated in vacuum. The 0.552 g. of yellowish crystals obtained as the residue are dissolved in benzene and chromatographed on 40 g. of silica gel. Benzene elutes 0.521 g. of yellowish crystals which are recrystallized from acetone-hexane up to constant melting point and clearing point. The pure 4'-cyano-4-biphenylyl butyrate obtained melts at 77.9°-78.2° and is liquid crystalline (monotrope) upon cooling to 74.7°. UV (EtOH): ε272 = 26,100.

reactant | 4'-cyano-4-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | butyric acid chloride | C(CCC)(=O)Cl | C4H7ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-cyano-4-biphenylyl butyrate | C(CCC)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H15NO2
